US09169203B2
Step 2: Synthesis of dodecyl 2-hydroxy-4-(methylsulfinyl)butanoate.
To a solution of dodecyl 2-hydroxy-4-(methylthio)butanoate (20 g, 62.8 mmol) in methanol (100 mL) was added 30% hydrogen peroxide (20.0 mL, 176 mmol) at 0° C. The ice bath was removed and the reaction was stirred at room temperature for about 3 hrs. The reaction was mildly exothermic. Analysis indicated the reaction was completed within two hours. Water (400 mL) was added to the mixture. The mixture was extracted with EtOAc (2×100 mL). The extracts were combined and washed with a 10% sodium bisulfite solution (100 mL). The organic phase was dried with anhydrous magnesium sulfate and the solvent was evaporated with a rotary evaporator. A colorless viscous liquid was obtained which solidified upon standing to give a white solid (20.6 g, 98%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.86 (t, J=6.83 Hz, 3 H) 1.20-1.34 (m, 18 H) 1.53-1.62 (m, 2 H) 1.81-1.92 (m, 1 H) 1.98-2.07 (m, 1 H) 2.53 (d, J=4.13 Hz, 3 H) 2.60-2.90 (m, 2 H) 3.99-4.11 (m, 2 H) 4.12-4.19 (m, 1 H) 5.63 (dd, J=5.88, 2.38 Hz, 1 H). m/z 335 (MH+).

reactant | dodecyl 2-hydroxy-4-(methylthio)butanoate | 62.8 mmol, 20 g | OC(C(=O)OCCCCCCCCCCCC)CCSC | C17H34O3S
reactant | hydrogen peroxide | 176 mmol, 20.0 mL | OO | H2O2
solvent | methanol | 100 mL | CO | CH4O
product | dodecyl 2-hydroxy-4-(methylsulfinyl)butanoate | 20.6 g, 98% | OC(C(=O)OCCCCCCCCCCCC)CCS(=O)C | C17H34O4S
